US05519029
Under a nitrogen atmosphere N,N-dimethylethylenediamine (1.79 mL) is added to a stirred solution of 2-[2-(dimethylamino)ethyl]-5-chloroisoquino[5,6,7-cd]indazole-6(2H)-one (0.539 g) in pyridine (6.80 mL) and the resulting solution is heated at 80° C. for 12 hours. The pyridine and excess N,N-dimethylethylenediamine are removed by roto-evaporation and the obtained residue is purified by silica gel column chromatography eluting first with methylene chloride, then with methylene chloride/methanol 95/5 and finally with methylene chloride/methanol/concd. ammonia from 95/5/0.5 to 95/5/1 v/v/v. The fractions containing the yellow desired product are pooled and the solvents roto-evaporated. The obtained residue (0.529 g) is crystallized from diisopropylether to give 2-[2-(dimethylamino)ethyl)]-5-[[2-(dimethylamino)ethyl]amino]isoquino[5,6,7-cd]indazole-6(2H)-one as a yellow powder (0.291 g).

reactant | N,N-dimethylethylenediamine | 1.79 mL | CN(CCN)C | C4H12N2
reactant | 2-[2-(dimethylamino)ethyl]-5-chloroisoquino[5,6,7-cd]indazole-6(2H)-one | 0.539 g | CN(CCN1N=C2C=3C(=C(C=CC13)Cl)C(C=1C=NC=CC12)=O)C | C17H15ClN4O
solvent | pyridine | 6.80 mL | N1=CC=CC=C1 | C5H5N
product | 5-[[2-(dimethylamino)ethyl]amino]isoquino[5,6,7-cd]indazole-6(2H)-one | 0.291 g | CN(CCNC1=C2C=3C(=NNC3C=C1)C=1C=CN=CC1C2=O)C | C17H17N5O
